US09216980B2
Step 3: 3-(3,5-Dimethoxy-4-piperidin-1-ylmethyl-phenyl)-6-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A solution of 5-(3,5-dimethoxy-4-piperidin-1-ylmethyl-phenyl)-2-fluoro-6′-(1-methyl-1H-pyrazol-4-yl)-[3,4′]bipyridinyl-3′-ylamine (490 mg, 0.98 mmol) in anhydrous THF (16.7 mL) was added dropwise over 10 minutes to a solution of sodium bis(trimethylsilyl)amide (1N solution in THF, 2.9 mL, 2.9 mmol). After 30 minutes, the reaction was quenched by the addition of saturated aqueous potassium fluoride solution (5 mL) and concentrated under reduced pressure to afford a brown residue. The resultant brown residue was partitioned between ethyl acetate (75 mL) and water (50 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 50 g column, Biotage, 0-20% methanol in DCM) to afford the title compound as an off-white solid (69 mg, 15%). 1H NMR (CDCl3 plus CD3OD, 300 MHz): 8.86 (d, J=1.1 Hz, 1H), 8.84-8.80 (m, 2H), 8.37 (d, J=1.1 Hz, 1H), 8.09 (s, 1H), 8.06 (d, J=0.8 Hz, 1H), 6.91 (s, 2H), 4.01 (s, 3H), 3.96 (s, 6H), 3.74 (s, 2H), 2.64-2.50 (m, 4H), 1.65-1.56 (m, 4H), 1.49-1.37 (m, 2H).

reactant | 5-(3,5-dimethoxy-4-piperidin-1-ylmethyl-phenyl)-2-fluoro-6′-(1-methyl-1H-pyrazol-4-yl)-[3,4′]bipyridinyl-3′-ylamine | 0.98 mmol, 490 mg | COC=1C=C(C=C(C1CN1CCCCC1)OC)C=1C=C(C(=NC1)F)C1=C(C=NC(=C1)C=1C=NN(C1)C)N | C28H31FN6O2
reactant | sodium bis(trimethylsilyl)amide | 2.9 mmol, 1N, 2.9 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 16.7 mL | C1CCOC1 | C4H8O
product | 3-(3,5-Dimethoxy-4-piperidin-1-ylmethyl-phenyl)-6-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 69 mg, 15% | COC=1C=C(C=C(C1CN1CCCCC1)OC)C1=CC2=C(NC3=C2C=C(N=C3)C=3C=NN(C3)C)N=C1 | C28H30N6O2
